US07122545B2
0.03 g [3-Methoxymethyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-methyl-(tetrahydro-pyran-4-ylmethyl)-amine (0.056 mmol) were treated with 5N HCl (1 ml) at 90° C. for 0.5 h. The reaction mixture was concentrated, taken up in water (1 ml) and adjusted to pH 10 with ammonium hydroxide (25%), whereupon a precipitation formed. The precipitation was filtered, the crystals washed with water. After drying in vacuo, 0.015 g [2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-methyl-(tetrahydro-pyran-4-ylmethyl)-amine (55%) was obtained as a yellow solid; M.p.: 190–195° C.

reactant | [3-Methoxymethyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-methyl-(tetrahydro-pyran-4-ylmethyl)-amine | 0.056 mmol, 0.03 g | COCN1C(=NC=2C1=NC(=CC2)N(CC2CCOCC2)C)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C27H34N6O4S
reactant | HCl | 5N, 1 ml | Cl | ClH
product | [2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-methyl-(tetrahydro-pyran-4-ylmethyl)-amine | 0.015 g, 55% | COC1=CC=C(C2=C1N=C(S2)C2=NC=1C(=NC(=CC1)N(CC1CCOCC1)C)N2)N2CCOCC2 | C25H30N6O3S
